US08012956B2
A solution of 1,1-dimethylethyl {(1S)-1-[4-(4-methylpiperazin-1-yl)phenyl]ethyl}carbamate (2 g, 6.3 mmol) and 4N hydrogen chloride in dioxane (5 mL) in methanol (5 mL) was refluxed for 2 min. After cooling to room temperature the mixture was concentrated and rotary evaporated from benzene, and further dried in vacuo to afford 1.7 g, 5.9 mmol (95%) of (S)-1-[4-(4-methylpiperazin-1-yl)phenyl]ethylamine dihydrochloride. MS (EI) for C13H21N3: 220 (MH+).

reactant | 1,1-dimethylethyl {(1S)-1-[4-(4-methylpiperazin-1-yl)phenyl]ethyl}carbamate | 6.3 mmol, 2 g | CN1CCN(CC1)C1=CC=C(C=C1)[C@H](C)NC(OC(C)(C)C)=O | C18H29N3O2
reactant | hydrogen chloride | 4N | Cl | ClH
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | methanol | 5 mL | CO | CH4O
product | (S)-1-[4-(4-methylpiperazin-1-yl)phenyl]ethylamine dihydrochloride | 5.9 mmol, 1.7 g, 95% | Cl.Cl.CN1CCN(CC1)C1=CC=C(C=C1)[C@H](C)N | InChI=1S/C13H21N3.2ClH/c1-11(14)12-3-5-13(6-4-12)16-9-7-15(2)8-10-16;;/h3-6,11H,7-10,14H2,1-2H3;2*1H/t11-;;/m0../s1
